US03948944
Preparation of 4-Hydroxymethyl 2-Phenyl 1,3-Dithiolane
According to the procedure of Example 1, 35 g. (0.33 mole) of benzaldehyde and 40 g. (0.33 mole) of 2,3-dimercaptopropanol were reacted to yield 63.6 g. of crude product. After recrystallization 42.4 (56%) of the desired product were obtained as shown by nmr spectroscopy.

reactant | benzaldehyde | 0.33 mole | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2,3-dimercaptopropanol | 0.33 mole | SC(CO)CS | C3H8OS2
product | 4-Hydroxymethyl 2-Phenyl 1,3-Dithiolane | OCC1SC(SC1)C1=CC=CC=C1 | C10H12OS2
